Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])=[C:4]=[O:5])([H:7])([H:8])[H:9].[C:6]([H:10])([H:14])([H:15])[H:16]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4](=[O:5])[C:6]([H:14])([H:15])[H:16])[H:10])([H:7])([H:8])[H:9],60.9673679818094
[C:1](#[C:2][C:3]([C:4]([C:5]#[C:6][H:12])([H:10])[H:11])([H:8])[H:9])[H:7]>>[C:1]1([H:7])=[C-:2][C:3]([H:8])([H:9])[C:4]([H:10])([H:11])[C:5]([H:12])=[C+:6]1,62.7616991500751
[O:1]([C:2]([C:3]#[C:4][C:5]([C:6](=[O:7])[H:13])([H:11])[H:12])([H:9])[H:10])[H:8]>>[C:6](=[O:7])([H:10])[H:13].[O:1]([C:2](=[C:3]=[C:4]=[C:5]([H:11])[H:12])[H:9])[H:8],58.0956770015197
[C:1]1([H:7])([H:8])[C:2]([H:9])([H:10])[C:3]1([C:4]([H:11])([H:12])[H:13])[C:6]([C:5][H:14])([H:15])[H:16]>>[C:1]1([H:7])([H:8])[C:2]([H:9])([H:10])[C:3]12[C:4]([H:11])([H:12])[C:5]([H:13])([H:14])[C:6]2([H:15])[H:16],9.833691090827998
[C:1]([C:2](=[O:3])[C@@:4]([O:5][H:12])([C:6](=[O:7])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C-:6]#[O+:7].[C:1]([H:8])([H:9])([H:10])[H:13].[C:2](=[O:3])=[C:4]([O:5][H:12])[H:11],82.47906734997271
[C:1]([O+:2]=[C-:3][H:11])([H:8])([H:9])[H:10].[C:4]([C:5]([H:14])([H:15])[H:16])([C:6]#[N:7])([H:12])[H:13]>>[C:1]([O:2][C:3]([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6]#[N:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],8.148594234007902
[O:1]([C:2]([C:3]([C:4](=[O:5])[C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])[H:8]>>[C:2](=[C:3]([C:4](=[O:5])[C:6]([O:7][H:15])([H:13])[H:14])[H:11])([H:9])[H:10].[O:1]([H:8])[H:12],50.60899007924971
[O:1]=[C:2]([C:3]#[C:4][C:5]#[N:6])[H:7]>>[C:3](#[C:4][C:5]#[N:6])[H:7].[O+:1]#[C-:2],66.1496551726919
[C:1]([C:2]1=[C:6]=[N:7][C@:4]([O:5][H:11])([H:14])[C:3]1([H:12])[H:13])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3]([C:4](=[O:5])[H:14])([H:12])[H:13])([C:6]#[N:7])[H:11])([H:8])([H:9])[H:10],3.5735746693372903
[C:1]1([H:7])([H:8])[C@:2]2([H:9])[C:3]([H:10])([H:11])[C:4]([H:12])([H:13])[C:5]([H:14])([H:15])[C@:6]12[H:16]>>[C:1]([C:2][H:9])([C:6]1([H:16])[C:3]([H:10])([H:11])[C:4]([H:12])([H:13])[C:5]1([H:14])[H:15])([H:7])[H:8],102.532518751691
[O:1]1[C@@:2]2([H:7])[C@:3]3([H:8])[O:4][C@@:5]2([H:9])[C@:6]13[H:10]>>[O:1]1[C:2]([H:7])=[C:3]([H:8])[O:4][C:5]([H:9])=[C:6]1[H:10],38.53857326193871
[C:1]([C:2]([C:3]#[C:4][C:5](=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]1([H:7])([H:9])[C:2]([H:10])([H:11])[C:3]1([C+:4]=[C:5]([O-:6])[H:12])[H:8],79.13053582595559
[N:1]([C@@:2]([C:3]([C:4]([O:5][H:15])([H:13])[H:14])([H:11])[H:12])([C:6]#[N:7])[H:10])([H:8])[H:9]>>[C:4]([O:5][H:15])([H:12])([H:13])[H:14].[N+:1]1([H:8])([H:9])[C@@:2]([C:6]#[N:7])([H:10])[C-:3]1[H:11],85.7582445458616
[O:1]([C:2]([C:3](=[O:4])[C:5]#[C:6][H:10])([H:8])[H:9])[H:7]>>[O:1]([C:2]([C:5]([C:3]#[O+:4])=[C-:6][H:10])([H:8])[H:9])[H:7],56.40103933358629
[N:1](=[C:2]([H:7])[H:9])[H:6].[N:3](=[C:4]=[O:5])[H:8]>>[N:1](=[C:2](/[N:3]([C:4](=[O:5])[H:9])[H:8])[H:7])\[H:6],68.01705102638907
[O:1]=[C:2]([O:4][O:6][C:5](=[C:3])[H:8])[H:7]>>[O:1]=[C:2]([C:3](=[O:4])[C:5](=[O:6])[H:8])[H:7],11.505655244188986
[C-:1]#[C:2][C+:3]=[C:4]([C:5](=[C:6]([O:7][H:8])[H:11])[H:10])[H:9]>>[C:1](#[C:2][c:3]1[c:4]([H:9])[c:5]([H:10])[c:6]([H:11])[o:7]1)[H:8],29.611477061073913
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4](=[C:5])[C:6](=[O:7])[H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]#[C:5][C:6](=[O:7])[H:15])[H:11])([H:8])([H:9])[H:10],8.042805307828303
[C:1](=[C:2]([C:3]([H:11])([H:12])[H:13])[C:4]([O:5]/[C:6](=[N:7]/[H:16])[H:10])([H:14])[H:15])([H:8])[H:9]>>[C:1]([C:2]1([C:3]([H:11])([H:12])[H:13])[C:4]([H:14])([H:15])[O:5]/[C:6]1=[N:7]\[H:16])([H:8])([H:9])[H:10],88.88478226812643
[C:1](=[N+:2]1[C:3]([H:10])=[N:4][N:5][N:6]1[H:7])([H:8])[H:9]>>[C:1]([n:2]1[c:3]([H:10])[n:4][n:5][n:6]1)([H:7])([H:8])[H:9],24.2571638047744
[N:1]([C:2](=[O:3])[C:4]#[C:5][H:8])([H:6])[H:7]>>[N:1]([C-:2]=[O+:3][C:4]#[C:5][H:8])([H:6])[H:7],84.5967763444275
[C:1]1([H:7])([H:8])[C:2]([H:9])([H:10])[C:3]12[C:4]([H:11])([H:12])[C:5]([H:13])([H:14])[C:6]2([H:15])[H:16]>>[C:1]1([H:7])([H:8])[C:2]([H:9])([H:10])[C:3]1([C:6]([C:5]([C:4][H:12])([H:13])[H:14])([H:15])[H:16])[H:11],79.0930392841585
[C:1]([O:2][C:3]([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6]([O:7][H:19])([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2]/[C:3](=[C:4](/[C:6]([O:7][H:19])([H:17])[H:18])[H:13])[H:12])([H:8])([H:9])[H:10].[C:5]([H:11])([H:14])([H:15])[H:16],106.853500084736
[N+:1]12([H:7])[C@:2](/[C:3](=[N:4]/[H:10])[H:9])([H:8])[C@@:5]1([H:11])[C-:6]2[H:12]>>[N:1]1([H:7])[C@@:2]2([H:8])[C@:3]3([H:9])[N:4]([H:10])[C@@:5]2([H:11])[C@:6]13[H:12],33.56741318345699
[C:1]([c:2]1[n:3][o:4][c:5]([N:6]([H:11])[H:12])[c:7]1[H:13])([H:8])([H:9])[H:10]>>[C:1]([C:2]1=[C:7]([H:13])[C:5]([N:6]([H:11])[H:12])=[N+:3]1[O-:4])([H:8])([H:9])[H:10],81.1741342809281
[O:1]([C@@:2]1([C:3]#[N:4])[C:5][N:6]1[H:8])[H:7]>>[O:1]([C:2]([C:3]#[N:4])([C:5]#[N:6])[H:8])[H:7],21.686010141937288
